US06727264B1
2-METHYL-N-(3-{1-[4-(2-PHENYL-1H-BENZO[G]INDOL-3-YL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-{3-[1-(6-oxo-6-phenylhexyl)-4-piperidinyl]phenyl}propanamide and 1-(1-naphthyl)hydrazine hydrochloride: ESMS m/e: 544.3 (M+H)+.

reactant | 2-methyl-N-{3-[1-(6-oxo-6-phenylhexyl)-4-piperidinyl]phenyl}propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)C | C27H36N2O2
reactant | 1-(1-naphthyl)hydrazine hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)NN
product | 2-METHYL-N-(3-{1-[4-(2-PHENYL-1H-BENZO[G]INDOL-3-YL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC1=C(NC2=C3C(=CC=C12)C=CC=C3)C3=CC=CC=C3)C | C37H41N3O
